US07655645B2
To a suspension of 7-chloro-1-(tetrahydropyran-4-yl)methyl-1H-indole-3-carboxylic acid amide (8.0 g, 27.0 mmol) in tetrahydrofuran (100 ml) was added chlorocarbonylsulfenyl chloride (4.7 ml, 55.0 mmol) and the reaction mixture was heated at reflux for 3 h and allowed to cool. The precipitate was filtered off and dried to give 7-chloro-3-([1,3,4]-oxathiazol-2-on-5-yl)-1-(tetrahydropyran-4-yl)methyl-1H-indole (5.3 g, 15.0 mmol) as a white solid. The filtrate was concentrated in vacuo, and the resulting solid was washed with 5% ethyl acetate in n-heptane then dried to afford a further batch of 7-chloro-3-([1,3,4]-oxathiazol-2-on-5-yl)-1-(tetrahydropyran-4-yl)methyl-1H-indole (2.6 g, 7.0 mmol) as a pink solid.

reactant | 7-chloro-1-(tetrahydropyran-4-yl)methyl-1H-indole-3-carboxylic acid amide | 27.0 mmol, 8.0 g | ClC=1C=CC=C2C(=CN(C12)CC1CCOCC1)C(=O)N | C15H17ClN2O2
reactant | chlorocarbonylsulfenyl chloride | 55.0 mmol, 4.7 ml | ClC(=O)SCl | CCl2OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-([1,3,4]-oxathiazol-2-on-5-yl)-1-(tetrahydropyran-4-yl)methyl-1H-indole | 15.0 mmol, 5.3 g | ClC=1C=CC=C2C(=CN(C12)CC1CCOCC1)C1=NSC(O1)=O | C16H15ClN2O3S
